US04769370
A stirred mixture of 1,2-dichloro-3-hydroxy-8-oxo-5a-propyl-5a,6,7,8-tetrahydrodibenzofuran (0.4 g) potassium carbonate (0.2 g) and ethyl bromoacetate (200 μl) in N,N-dimethylformamide (7 ml) was heated at 65° C. for 1 1/4 hours. The reaction mixture was poured into ice water and the solid ester which precipitated was removed by filtration then dissolved in methanol (15 ml) containing water (1 ml) and 10N sodium hydroxide (1 ml). After 1/2 hour the methanol solution was poured into dilute aqueous hydrochloric acid, extracted with ether which was washed with water, brine, dried over MgSO4 and evaporated in vacuo. Trituration of the residue with methylene chloride gave 0.35 g of (1,2-dichloro-8-oxo-5a-propyl-5a,6,7,8-tetrahydrodibenzofuran-3-yl)acetic acid which melted at 248°-250° C.

reactant | 1,2-dichloro-3-hydroxy-8-oxo-5a-propyl-5a,6,7,8-tetrahydrodibenzofuran | 0.4 g | ClC1=C(C(=CC=2OC3(C(C21)=CC(CC3)=O)CCC)O)Cl | C15H14Cl2O3
reactant | ethyl bromoacetate | 200 μl | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | (1,2-dichloro-8-oxo-5a-propyl-5a,6,7,8-tetrahydrodibenzofuran-3-yl)acetic acid | 0.35 g | ClC1=C(C(=CC=2OC3(C(C21)=CC(CC3)=O)CCC)CC(=O)O)Cl | C17H16Cl2O4
